US04145347
2-(4-Methyl-1-piperazinyl)propionitrile (38.3 g.) in 50 ml. of dry ether is added in a dropwise manner to a stirred solution of 19 g. of lithium aluminum hydride in 600 ml. of dry ether. The resulting mixture is heated at reflux for 1 hour, cooled and treated in sequence with 10 ml. of water, 7.5 ml. of 20% aqueous sodium hydroxide, and 35 ml. of water. The mixture is filtered and the filtrate is evaporated. The residue is fractionated at reduced pressure to give 2-(4-methyl-1-piperazinyl)propylamine as an oil, b.p. 92°-93° C./9 mm.

reactant | 2-(4-Methyl-1-piperazinyl)propionitrile | 38.3 g | CN1CCN(CC1)C(C#N)C | C8H15N3
reactant | ether | CCOCC | C4H10O
reactant | lithium aluminum hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | O | H2O
product | 2-(4-methyl-1-piperazinyl)propylamine | CN1CCN(CC1)C(CN)C | C8H19N3
